US09120749B2
tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (285 mg, 1.0 mmol) was reacted with tert-butyl (1-(5-aminopyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate (440 mg, 1.50 mmol) to afford the desired product (273 mg, 51%) as an orange solid. ESI MS m/z 540 [C26H30BrN5O3+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.0 mmol, 285 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | tert-butyl (1-(5-aminopyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 1.50 mmol, 440 mg | NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C | C15H24N4O2
product | tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 273 mg, 51% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C)Br | C26H30BrN5O3
